US05162524
4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methanesulfonyloxy-2-butenoate (XVc)
A solution of 4-nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate (XIVc, 0.131 g, 0.000206 mole) in dry dichloromethane (3 mL) at -78° C. was treated with triethylamine (0.031 ml, 0.00022 mole) and methanesulfonyl (mesyl) chloride (0.0175 mL, 0.00022 mole), and the temperature was allowed to reach -20° C. over the course of 3 h. Another portion of triethylamine (0.031 mL, 0.00022 mole) and mesyl chloride (0.0175 mL, 0.00022 mole) was added and, after a further 1 h period at -20° C., the brown solution was quenched with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with dilute acid (0.05N HCl) followed by brine and dried over magnesium sulfate. Flash chromatography (silica gel, 50-60% ethyl acetate in hexane) gave the title product, XVc, as a mixture of E and Z isomers in 1:1 ratio and as a colorless foam.

reactant | 4-nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate | 0.000206 mole, 0.131 g | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O)NC(COC1=CC=CC=C1)=O)C | C29H27N3O10S2
reactant | triethylamine | 0.00022 mole, 0.031 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl (mesyl) chloride | 0.00022 mole, 0.0175 mL | CS(=O)(=O)CS(=O)(=O)Cl | C2H5ClO4S2
reactant | triethylamine | 0.00022 mole, 0.031 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.00022 mole, 0.0175 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methanesulfonyloxy-2-butenoate | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O)NC(COC1=CC=CC=C1)=O)C | C30H29N3O12S3
